US07125942B2
35.2 g of methacryloyloxypropyl cyanoacetate is mixed with 50 ml of dioxane. 13.5 g of zinc chloride is added during mixing. 13,25 g of acrolein are added dropwise over 10 minutes, taking care the reaction temperature not to exceed 20° C. The stirring is continued for a further 8 hours at room temperature yielding a clear yellow solution. 100 ml of methylmethacrylate are mixed in and then three consecutive extractions with 150 ml of 2N hydrochloric aced are performed. The organic layer is filtered and stripped under reduced pressure (0.7 mm Hg). The pot temperature is not to exceed 90° C. and a steady stream of air through the product is maintained during stripping. 25 g of methacryloyloxypropyl 2-cyanopenta-2,4-dienoate are obtained with nD20=1,5045. The IR spectrum (FIG. 3) confirms the chemical structure. The product possesses the same adhesive properties as described in Example 1.

reactant | methacryloyloxypropyl cyanoacetate | 35.2 g | C(#N)CC(=O)OCCCOC(C(=C)C)=O | C10H13NO4
reactant | acrolein | 13,25 g | C(=O)C=C | C3H4O
reactant | methylmethacrylate | 100 ml | COC(C(=C)C)=O | C5H8O2
catalyst | zinc chloride | 13.5 g | [Cl-].[Zn+2].[Cl-]
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | methacryloyloxypropyl 2-cyanopenta-2,4-dienoate | 25 g | C(#N)C(C(=O)OCCCOC(C(=C)C)=O)=CC=C | C13H15NO4
